US07615562B2
{4-[6-(2-Amino-propyl)-1H-indol-3-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared as described in Example 215, starting from {2-[1-(tert-butyl-dimethyl-silanyl)-1H-indol-6-yl]-1-methyl-ethyl}-trityl-amine (prepared by trityl and TBDMS protection of 2-(1H-Indol-6-yl)-1-methyl-ethylamine) and (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by in situ removal of the protecting groups with 2N-HCl. Yield: 406 mg (31%).

reactant | {2-[1-(tert-butyl-dimethyl-silanyl)-1H-indol-6-yl]-1-methyl-ethyl}-trityl-amine | C(C)(C)(C)[Si](N1C=CC2=CC=C(C=C12)CC(C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C36H42N2Si
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
product | {4-[6-(2-Amino-propyl)-1H-indol-3-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | NC(CC1=CC=C2C(=CNC2=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)C | C24H34N6
